2172-03-10 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   A Line placed yesterday.  Pt. has been alert on vent intermittently, no
   overnight events.  T max  100.9 at 8pm.
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2172-3-9**] 11:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2172-3-9**] 12:00 PM
   Azithromycin - [**2172-3-9**] 03:00 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2172-3-9**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2172-3-9**] 08:18 PM
   Fentanyl - [**2172-3-10**] 04:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-10**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**74**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.1
C (98.8
   HR: 60 (60 - 69) bpm
   BP: 140/58(87) {89/42(59) - 144/65(88)} mmHg
   RR: 18 (15 - 22) insp/min
   SpO2: 97%
   Heart rhythm: AV Paced
             Total In:
                                                                  2,562 mL
                                                                  1,048 mL
   PO:
             TF:
   IVF:
                                                                  1,112 mL
                                                                    808 mL
   Blood products:
   Total out:
                                                                  2,685 mL
                                                                    117 mL
   Urine:
                                                                  1,535 mL
                                                                    117 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -123 mL
                                                                    932 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.48/34/70/24/2
   Ve: 8.5 L/min
   PaO2 / FiO2: 140
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   132 K/uL
   11.1 g/dL
   131 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.2 mEq/L
   16 mg/dL
   109 mEq/L
   141 mEq/L
   30.9 %
   8.0 K/uL
        [image002.jpg]
                             [**2172-3-9**]  12:46 PM
                             [**2172-3-9**]  02:49 PM
                             [**2172-3-9**]  06:49 PM
                             [**2172-3-9**]  07:46 PM
                             [**2172-3-10**]  02:56 AM
   WBC
   8.0
   Hct
   30.9
   Plt
   132
   Cr
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   23
   26
   Glucose
   131
   Other labs: PT / PTT / INR:15.1/27.3/1.3, CK / CKMB /
   Troponin-T:42//<0.01, Lactic Acid:1.6 mmol/L, Ca++:7.8 mg/dL, Mg++:1.8
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Assessment and Plan: 87 y/o F CAD, CHF, HTN, sick sinus s/p pacer,
   severe AS who presents with acute respiratory distress.
   # Acute respiratory distress: Elevated WBC concerning for pneumonia,
   recieved ceftriaxone and levofloxacin in ED. Patchy infiltrates on CXR
   concerning for atypical pneumonia versus volume overload. BP > 200 on
   presentation suggesting patient could have acutely flashed secondary to
   diastolic dysfunction. Acute decompensation also concerning for MI
   (patient with known CAD disease and paced EKG makes acute changes
   difficult to intrepert on EKG). Less likely PE in setting of patchy
   infiltrates on CXR. For CHF exacerbation patient received 60 mg IV
   lasix however dropped pressure to 60 in the setting of propofo and
   patient's mod-severe AS makes her preload dependent and difficult to
   diuresis.
   - Ceftriaxone and Azithromycin for CAP (no nursing home expsosure,
   prior MDR)
   - Send sputum culture and legionella antigen
   - Trend troponins
   - ECHO to eval progression of AS, systolic/diastolic dysfunction
   - Place a-line to monitor ABGs
   - Ultrasound CVP to eval respiratory variation and whether volume
   overloaded vs. hypovolemic -> CVP easily collapsable try 500 cc bolus
   # Hypotension: Patient with labile blood pressures ranging from hypo to
   hypertensive. Hypotensive most likely in setting of propofol, however
   lactate elevated 5.9 and acute kidney injury concerning for shock.
   - Stat lactate on arrival
   - Antibiotics as above for possible PNA leading to septic shock
   - Follow urine, blood for infection
   - ECHO and troponins to eval for cardiogenic shock
   - 500 cc bolus trial and attempt to decrease PEEP
   # [**Last Name (un) **]: Creatinine increased to 1.2 from baseline 0.9. Concerning for
   shock, however adequate urine output.
   - Send urine lytes
   - 5OO cc bolus
   # CAD: Patient with known 3 vessel disease but no intervention. No
   history of chest pain, but difficult to interpert EKG in setting of
   v-pacing.
   - Trend troponins
   - Continue ASA, simvastatin
   # HTN: Labile blood pressure (see above).
   - Hold blood pressure medications (Lopressor, Clonidine) until follow
   for longer course
   - Place a-line for closer/more adequate monitoring
   # CHF: Acute respiratory distress concerning for acute exacerbation.
   - Hold Imdur in setting of labile blood pressure
   - Hold Lasix until able to assess volume status
   # Mod-Severe Aortic Stenosis: Patient increasing dyspnea prior to
   admission. No known history of chest pain or syncope.
   - ECHO to eval severity
   - Cautious diuresis due to preload dependence
   # Hypothyroidism: Continue levothyroxine 50 mcg daily.
   # Rate: Patient with history of A Fib and sick sinus syndrome s/p PPM.
   - Continue Amiodarone 200 mg qd
   # FEN: replete electrolytes, NPO
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # Communication: Patient
   # Code:  Full
   # Disposition: ICU pending clinical improvement

2172-03-10 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   A Line placed yesterday.  Pt. has been alert on vent intermittently, no
   overnight events.  T max  100.9 at 8pm.
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2172-3-9**] 11:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2172-3-9**] 12:00 PM
   Azithromycin - [**2172-3-9**] 03:00 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2172-3-9**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2172-3-9**] 08:18 PM
   Fentanyl - [**2172-3-10**] 04:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-10**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**74**] AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.1
C (98.8
   HR: 60 (60 - 69) bpm
   BP: 140/58(87) {89/42(59) - 144/65(88)} mmHg
   RR: 18 (15 - 22) insp/min
   SpO2: 97%
   Heart rhythm: AV Paced
             Total In:
                                                                  2,562 mL
                                                                  1,048 mL
   PO:
             TF:
   IVF:
                                                                  1,112 mL
                                                                    808 mL
   Blood products:
   Total out:
                                                                  2,685 mL
                                                                    117 mL
   Urine:
                                                                  1,535 mL
                                                                    117 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -123 mL
                                                                    932 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   Compliance: 35.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.48/34/70/24/2
   Ve: 8.5 L/min
   PaO2 / FiO2: 140
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   132 K/uL
   11.1 g/dL
   131 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.2 mEq/L
   16 mg/dL
   109 mEq/L
   141 mEq/L
   30.9 %
   8.0 K/uL
        [image002.jpg]
                             [**2172-3-9**]  12:46 PM
                             [**2172-3-9**]  02:49 PM
                             [**2172-3-9**]  06:49 PM
                             [**2172-3-9**]  07:46 PM
                             [**2172-3-10**]  02:56 AM
   WBC
   8.0
   Hct
   30.9
   Plt
   132
   Cr
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   23
   26
   Glucose
   131
   Other labs: PT / PTT / INR:15.1/27.3/1.3, CK / CKMB /
   Troponin-T:42//<0.01, Lactic Acid:1.6 mmol/L, Ca++:7.8 mg/dL, Mg++:1.8
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Assessment and Plan: 87 y/o F CAD, CHF, HTN, sick sinus s/p pacer,
   severe AS who presents with acute respiratory distress.
   # Acute respiratory distress: Elevated WBC concerning for pneumonia,
   recieved ceftriaxone and levofloxacin in ED. Patchy infiltrates on CXR
   concerning for atypical pneumonia versus volume overload. BP > 200 on
   presentation suggesting patient could have acutely flashed secondary to
   diastolic dysfunction. Acute decompensation also concerning for MI
   (patient with known CAD disease and paced EKG makes acute changes
   difficult to intrepert on EKG). Less likely PE in setting of patchy
   infiltrates on CXR. For CHF exacerbation patient received 60 mg IV
   lasix however dropped pressure to 60 in the setting of propofo and
   patient's mod-severe AS makes her preload dependent and difficult to
   diuresis.
   - diurese with 60 IV Lasix once more prior to extubation
   - Ceftriaxone and Azithromycin for CAP (no nursing home expsosure,
   prior MDR)
   - Bronchial wash (respiratory) for sputum culture and legionella
   antigen
   - Trend troponins
   - ECHO to eval progression of AS, systolic/diastolic dysfunction
   - Place a-line to monitor ABGs
   - Ultrasound CVP to eval respiratory variation and whether volume
   overloaded vs. hypovolemic -> CVP easily collapsable try 500 cc bolus
   # Hypertension: increasingly hypertensive
   - low dose captopril (12.5 TID)
   - diuresis as above
   # Hypotension/Hypertension: Patient with labile blood pressures ranging
   from hypo to hypertensive. Hypotensive most likely in setting of
   propofol, however lactate elevated 5.9 and acute kidney injury
   concerning for shock.
   - Antibiotics as above for possible PNA leading to septic shock
   - Follow urine, blood for infection
   # [**Last Name (un) **]: Creatinine increased to 1.2 from baseline 0.9. Concerning for
   shock, however adequate urine output.
   - Send urine lytes
   - 5OO cc bolus
   # CAD: Patient with known 3 vessel disease but no intervention. No
   history of chest pain, but difficult to interpert EKG in setting of
   v-pacing.
   - Trend troponins
   - Continue ASA, simvastatin
   # HTN: Labile blood pressure (see above).
   - Hold blood pressure medications (Lopressor, Clonidine) until follow
   for longer course
   - Place a-line for closer/more adequate monitoring
   # CHF: Acute respiratory distress concerning for acute exacerbation.
   - Hold Imdur in setting of labile blood pressure
   - Restart Lasix as above
   - Starting captopril
   # Mod-Severe Aortic Stenosis: Patient increasing dyspnea prior to
   admission. No known history of chest pain or syncope.
   - ECHO to eval severity
   - Cautious diuresis due to preload dependence
   # Hypothyroidism: Continue levothyroxine 50 mcg daily.
   # Rate: Patient with history of A Fib and sick sinus syndrome s/p PPM.
   - Continue Amiodarone 200 mg qd
   # FEN: replete electrolytes, NPO
   - rechecking lytes and CBC and replete this morning
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # Communication: Patient
   # Code:  Full
   # Disposition: ICU pending clinical improvement

2172-03-11 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Yesterday evening (5:20 pm) Pt was extubated and procedure was
   tolerated well. Post extubation ABG 7.41/42/78/28 @ 3L
   Pt briefly on nitro gtt after become hypertensive to 200s systolic in
   peri-extubation period, but gtt was weaned off after approximately 1
   hour
   Pt now on 3L O2 which is what she is on at home
   wanted something for sleep -  as she was alert and conversational and
   respiratory fine, got 25mg trazadone.
   Lasix not given yesterday because of good urine output.
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2172-3-9**] 11:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2172-3-9**] 12:00 PM
   Azithromycin - [**2172-3-9**] 03:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2172-3-10**] 10:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-11**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**74**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.8
   HR: 60 (60 - 61) bpm
   BP: 116/45(68) {110/45(68) - 203/74(119)} mmHg
   RR: 13 (12 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
             Total In:
                                                                  1,165 mL
                                                                     21 mL
   PO:
             TF:
   IVF:
                                                                    925 mL
                                                                     21 mL
   Blood products:
   Total out:
                                                                  2,352 mL
                                                                    260 mL
   Urine:
                                                                  2,352 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,187 mL
                                                                   -239 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 492 (429 - 531) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 47
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.41/42/77.[**Numeric Identifier 253**]/25/1
   Ve: 6.4 L/min
   PaO2 / FiO2: 156
   Physical Examination
   GEN: AOx3, alert, interactive
   HEENT: mm dry, anicteric sclera
   RESP: bibasilar crackles, no wheezes, ronchi, rales
   Cards: III/VI LSB systolic murmur w/ radiation to carotids. rrr. No r/g
   Abd: soft, nt/nd, +BS, no organomegaly
   Ext: WWP, no c/c/e
   Labs / Radiology
   152 K/uL
   12.3 g/dL
   102 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.6 mEq/L
   12 mg/dL
   105 mEq/L
   139 mEq/L
   35.9 %
   9.3 K/uL
        [image002.jpg]
                             [**2172-3-9**]  12:46 PM
                             [**2172-3-9**]  02:49 PM
                             [**2172-3-9**]  06:49 PM
                             [**2172-3-9**]  07:46 PM
                             [**2172-3-10**]  02:56 AM
                             [**2172-3-10**]  08:59 AM
                             [**2172-3-10**]  09:31 AM
                             [**2172-3-10**]  05:06 PM
                             [**2172-3-10**]  05:20 PM
                             [**2172-3-11**]  03:31 AM
   WBC
   8.0
   7.7
   9.3
   Hct
   30.9
   33.3
   35.9
   Plt
   132
   116
   152
   Cr
   0.9
   0.9
   0.9
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   23
   26
   25
   28
   Glucose
   131
   124
   142
   102
   Other labs: PT / PTT / INR:13.3/26.0/1.1, CK / CKMB /
   Troponin-T:42//<0.01, Lactic Acid:1.6 mmol/L, Ca++:8.5 mg/dL, Mg++:2.2
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Assessment and Plan
   Assessment and Plan: 87 y/o F CAD, CHF, HTN, sick sinus s/p pacer,
   severe AS who presents with acute respiratory distress.
   # Acute respiratory distress:  Pt
s respiratory status much improved
   now successfully extubated. Given echo findings, hx of progressive AS,
   and episodes of SBP>200 while in hospital suspect that flash pulmonary
   edema was most likely etiology of acute respiratory decompensation. Pt
   still seeming volume overloaded on exam.  Pt has been ruled out for
   myocardial infarction. PNA still in differential although less likely
   as Pt has been afebrile and without leukocytosis
   - diurese with 80 PO Lasix X1 as pt still volume overloaded on exam
   - Can d/c Ceftriaxone and Azithro as Pt not appearing actively
   infected, no fever, no leukocytosis, all cx to date negative
   - Would leave d/c a-line after diuresis w/ lasix
   .
   # Hypertension: Pt hypertensive in per-extubation in setting, briefly
   on nitro gtt, normotensive now
   - captopril titrated up to 25 mg TID yesterday
   - hold on home clonidine and lopressor for now
   - restart ativan 0.25 q8 prn
   - diuresis as above
   # Hypotension/Hypertension: Patient with labile blood pressures ranging
   from hypo to hypertensive. Hypotensive most likely in setting of
   propofol, however lactate elevated 5.9 and acute kidney injury
   concerning for shock.
   - Antibiotics as above for possible PNA leading to septic shock
   - Follow urine, blood for infection
   # [**Last Name (un) **]: Creatinine increased to 1.2 from baseline 0.9.
   - Has been 0.9 over past 2 days
   - Continue to trend
   .
   # CAD: Patient with known 3 vessel disease but no intervention. No
   history of chest pain, but difficult to interpert EKG in setting of
   v-pacing.
   - Pt has been ruled out for MI
   - Continue ASA, simvastatin
   # HTN: Labile blood pressure (see above).
   - Continuing Captopril, 25 mg TID
   - Continuing Imdur, 60 mg qD
   - Can d/c a-line after diuresis
   .
   # CHF: Acute respiratory distress concerning for acute exacerbation.
   - Continuing Imdur in setting of labile blood pressure
   - Continue Lasix as above
   - Continuing captopril
   # Mod-Severe Aortic Stenosis: Patient increasing dyspnea prior to
   admission. No known history of chest pain or syncope.
   - Cautious diuresis due to preload dependence
   # Hypothyroidism: Continue levothyroxine 50 mcg daily.
   # Rate: Patient with history of A Fib and sick sinus syndrome s/p PPM.
   - Continue Amiodarone 200 mg qd
   # FEN:
   -replete electrolytes,
   -will start regular diet
   -stop famotidine
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals, R radial a-line
   -d/c a-line before goes to floor
   # Communication: Patient , daughter, grand-daughter
   # Code: Full
   # Disposition: ICU now, call out to floor later this AM
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-3-9**] 10:58 AM
   Arterial Line - [**2172-3-9**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-03-11 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2172-3-10**] 01:45 PM
 EKG - At [**2172-3-11**] 03:30 AM
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2172-3-9**] 11:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2172-3-9**] 12:00 PM
   Azithromycin - [**2172-3-9**] 03:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2172-3-10**] 10:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-11**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**74**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.8
   HR: 60 (60 - 61) bpm
   BP: 116/45(68) {110/45(68) - 203/74(119)} mmHg
   RR: 13 (12 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
             Total In:
                                                                  1,165 mL
                                                                     21 mL
   PO:
             TF:
   IVF:
                                                                    925 mL
                                                                     21 mL
   Blood products:
   Total out:
                                                                  2,352 mL
                                                                    260 mL
   Urine:
                                                                  2,352 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,187 mL
                                                                   -239 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 492 (429 - 531) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 47
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.41/42/77.[**Numeric Identifier 253**]/25/1
   Ve: 6.4 L/min
   PaO2 / FiO2: 156
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   152 K/uL
   12.3 g/dL
   102 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.6 mEq/L
   12 mg/dL
   105 mEq/L
   139 mEq/L
   35.9 %
   9.3 K/uL
        [image002.jpg]
                             [**2172-3-9**]  12:46 PM
                             [**2172-3-9**]  02:49 PM
                             [**2172-3-9**]  06:49 PM
                             [**2172-3-9**]  07:46 PM
                             [**2172-3-10**]  02:56 AM
                             [**2172-3-10**]  08:59 AM
                             [**2172-3-10**]  09:31 AM
                             [**2172-3-10**]  05:06 PM
                             [**2172-3-10**]  05:20 PM
                             [**2172-3-11**]  03:31 AM
   WBC
   8.0
   7.7
   9.3
   Hct
   30.9
   33.3
   35.9
   Plt
   132
   116
   152
   Cr
   0.9
   0.9
   0.9
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   23
   26
   25
   28
   Glucose
   131
   124
   142
   102
   Other labs: PT / PTT / INR:13.3/26.0/1.1, CK / CKMB /
   Troponin-T:42//<0.01, Lactic Acid:1.6 mmol/L, Ca++:8.5 mg/dL, Mg++:2.2
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-3-9**] 10:58 AM
   Arterial Line - [**2172-3-9**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-03-11 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Yesterday evening (5:20 pm) Pt was extubated and procedure was
   tolerated well. Post extubation ABG 7.41/42/78/28 @ 3L
   Pt now on 3L O2 which is what she is on at home
   wanted something for sleep -  as she was alert and conversational and
   respiratorily fine gave her 25mg trazadone.
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2172-3-9**] 11:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2172-3-9**] 12:00 PM
   Azithromycin - [**2172-3-9**] 03:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2172-3-10**] 10:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-11**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**74**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.8
   HR: 60 (60 - 61) bpm
   BP: 116/45(68) {110/45(68) - 203/74(119)} mmHg
   RR: 13 (12 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
             Total In:
                                                                  1,165 mL
                                                                     21 mL
   PO:
             TF:
   IVF:
                                                                    925 mL
                                                                     21 mL
   Blood products:
   Total out:
                                                                  2,352 mL
                                                                    260 mL
   Urine:
                                                                  2,352 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,187 mL
                                                                   -239 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 492 (429 - 531) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 47
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.41/42/77.[**Numeric Identifier 253**]/25/1
   Ve: 6.4 L/min
   PaO2 / FiO2: 156
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   152 K/uL
   12.3 g/dL
   102 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.6 mEq/L
   12 mg/dL
   105 mEq/L
   139 mEq/L
   35.9 %
   9.3 K/uL
        [image002.jpg]
                             [**2172-3-9**]  12:46 PM
                             [**2172-3-9**]  02:49 PM
                             [**2172-3-9**]  06:49 PM
                             [**2172-3-9**]  07:46 PM
                             [**2172-3-10**]  02:56 AM
                             [**2172-3-10**]  08:59 AM
                             [**2172-3-10**]  09:31 AM
                             [**2172-3-10**]  05:06 PM
                             [**2172-3-10**]  05:20 PM
                             [**2172-3-11**]  03:31 AM
   WBC
   8.0
   7.7
   9.3
   Hct
   30.9
   33.3
   35.9
   Plt
   132
   116
   152
   Cr
   0.9
   0.9
   0.9
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   23
   26
   25
   28
   Glucose
   131
   124
   142
   102
   Other labs: PT / PTT / INR:13.3/26.0/1.1, CK / CKMB /
   Troponin-T:42//<0.01, Lactic Acid:1.6 mmol/L, Ca++:8.5 mg/dL, Mg++:2.2
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Assessment and Plan
   Assessment and Plan: 87 y/o F CAD, CHF, HTN, sick sinus s/p pacer,
   severe AS who presents with acute respiratory distress.
   # Acute respiratory distress: Elevated WBC concerning for pneumonia,
   recieved ceftriaxone and levofloxacin in ED. Patchy infiltrates on CXR
   concerning for atypical pneumonia versus volume overload. BP > 200 on
   presentation suggesting patient could have acutely flashed secondary to
   diastolic dysfunction. Acute decompensation also concerning for MI
   (patient with known CAD disease and paced EKG makes acute changes
   difficult to intrepert on EKG). Less likely PE in setting of patchy
   infiltrates on CXR. For CHF exacerbation patient received 60 mg IV
   lasix however dropped pressure to 60 in the setting of propofo and
   patient's mod-severe AS makes her preload dependent and difficult to
   diuresis.
   - diurese with 60 IV Lasix once more prior to extubation
   - Ceftriaxone and Azithromycin for CAP (no nursing home expsosure,
   prior MDR)
   - Bronchial wash (respiratory) for sputum culture and legionella
   antigen
   - Trend troponins
   - ECHO to eval progression of AS, systolic/diastolic dysfunction
   - Place a-line to monitor ABGs
   - Ultrasound CVP to eval respiratory variation and whether volume
   overloaded vs. hypovolemic -> CVP easily collapsable try 500 cc bolus
   # Hypertension: increasingly hypertensive
   - low dose captopril (12.5 TID)
   - diuresis as above
   # Hypotension/Hypertension: Patient with labile blood pressures ranging
   from hypo to hypertensive. Hypotensive most likely in setting of
   propofol, however lactate elevated 5.9 and acute kidney injury
   concerning for shock.
   - Antibiotics as above for possible PNA leading to septic shock
   - Follow urine, blood for infection
   # [**Last Name (un) **]: Creatinine increased to 1.2 from baseline 0.9. Concerning for
   shock, however adequate urine output.
   - Send urine lytes
   - 5OO cc bolus
   # CAD: Patient with known 3 vessel disease but no intervention. No
   history of chest pain, but difficult to interpert EKG in setting of
   v-pacing.
   - Trend troponins
   - Continue ASA, simvastatin
   # HTN: Labile blood pressure (see above).
   - Hold blood pressure medications (Lopressor, Clonidine) until follow
   for longer course
   - Place a-line for closer/more adequate monitoring
   # CHF: Acute respiratory distress concerning for acute exacerbation.
   - Hold Imdur in setting of labile blood pressure
   - Restart Lasix as above
   - Starting captopril
   # Mod-Severe Aortic Stenosis: Patient increasing dyspnea prior to
   admission. No known history of chest pain or syncope.
   - ECHO to eval severity
   - Cautious diuresis due to preload dependence
   # Hypothyroidism: Continue levothyroxine 50 mcg daily.
   # Rate: Patient with history of A Fib and sick sinus syndrome s/p PPM.
   - Continue Amiodarone 200 mg qd
   # FEN: replete electrolytes, NPO
   - rechecking lytes and CBC and replete this morning
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # Communication: Patient
   # Code:  Full
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-3-9**] 10:58 AM
   Arterial Line - [**2172-3-9**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-03-11 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Yesterday evening (5:20 pm) Pt was extubated and procedure was
   tolerated well. Post extubation ABG 7.41/42/78/28 @ 3L
   Pt briefly on nitro gtt after become hypertensive to 200s systolic in
   peri-extubation period, but gtt was weaned off after approximately 1
   hour
   Pt now on 3L O2 which is what she is on at home
   wanted something for sleep -  as she was alert and conversational and
   respiratorily fine gave her 25mg trazadone.
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2172-3-9**] 11:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2172-3-9**] 12:00 PM
   Azithromycin - [**2172-3-9**] 03:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2172-3-10**] 10:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-11**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**74**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.8
   HR: 60 (60 - 61) bpm
   BP: 116/45(68) {110/45(68) - 203/74(119)} mmHg
   RR: 13 (12 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
             Total In:
                                                                  1,165 mL
                                                                     21 mL
   PO:
             TF:
   IVF:
                                                                    925 mL
                                                                     21 mL
   Blood products:
   Total out:
                                                                  2,352 mL
                                                                    260 mL
   Urine:
                                                                  2,352 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,187 mL
                                                                   -239 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 492 (429 - 531) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 47
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.41/42/77.[**Numeric Identifier 253**]/25/1
   Ve: 6.4 L/min
   PaO2 / FiO2: 156
   Physical Examination
   Labs / Radiology
   152 K/uL
   12.3 g/dL
   102 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.6 mEq/L
   12 mg/dL
   105 mEq/L
   139 mEq/L
   35.9 %
   9.3 K/uL
        [image002.jpg]
                             [**2172-3-9**]  12:46 PM
                             [**2172-3-9**]  02:49 PM
                             [**2172-3-9**]  06:49 PM
                             [**2172-3-9**]  07:46 PM
                             [**2172-3-10**]  02:56 AM
                             [**2172-3-10**]  08:59 AM
                             [**2172-3-10**]  09:31 AM
                             [**2172-3-10**]  05:06 PM
                             [**2172-3-10**]  05:20 PM
                             [**2172-3-11**]  03:31 AM
   WBC
   8.0
   7.7
   9.3
   Hct
   30.9
   33.3
   35.9
   Plt
   132
   116
   152
   Cr
   0.9
   0.9
   0.9
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   23
   26
   25
   28
   Glucose
   131
   124
   142
   102
   Other labs: PT / PTT / INR:13.3/26.0/1.1, CK / CKMB /
   Troponin-T:42//<0.01, Lactic Acid:1.6 mmol/L, Ca++:8.5 mg/dL, Mg++:2.2
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Assessment and Plan
   Assessment and Plan: 87 y/o F CAD, CHF, HTN, sick sinus s/p pacer,
   severe AS who presents with acute respiratory distress.
   # Acute respiratory distress:  Pt
s respiratory status much improved,
   successfully extubated. Given echo findings, hx of progressive AS, and
   episodes of SBP>200 while in hospital suspect that flash pulmonary
   edema was most likely etiology of acute respiratory decompensation. Pt
   still seeming volume overloaded on exam.  Pt has been ruled out for
   myocardial infarction. PNA still in differential although less likely
   as Pt has been afebrile and without leukocytosis
    - diurese with 60 IV Lasix X1 as Pt still volume overloaded on exam
   - Can d/c Ceftriaxone and Azithro as Pt not appearing actively
   infected, no fever, no leukocytosis, all cx to date negative
   - Would leave d/c a-line after diuresis w/ lasix
   .
   # Hypertension: Pt hypertensive in per-extubation in setting, briefly
   on nitro gtt, normotensive now
   - Captopril titrated up to 25 mg TID yesterday
   - diuresis as above
   # Hypotension/Hypertension: Patient with labile blood pressures ranging
   from hypo to hypertensive. Hypotensive most likely in setting of
   propofol, however lactate elevated 5.9 and acute kidney injury
   concerning for shock.
   - Antibiotics as above for possible PNA leading to septic shock
   - Follow urine, blood for infection
   # [**Last Name (un) **]: Creatinine increased to 1.2 from baseline 0.9.
   -Has been 0.9 over past 2 days
   - Continue to trend
   .
   # CAD: Patient with known 3 vessel disease but no intervention. No
   history of chest pain, but difficult to interpert EKG in setting of
   v-pacing.
   - Pt has been ruled out for MI
   - Continue ASA, simvastatin
   # HTN: Labile blood pressure (see above).
   - Continuing Captopril, 25 mg TID
   - Continuing Imdur, 60 mg qD
   - Can d/c a-line after diuresis
   .
   # CHF: Acute respiratory distress concerning for acute exacerbation.
   - Continuing Imdur in setting of labile blood pressure
   - Continue Lasix as above
   - Continuing captopril
   # Mod-Severe Aortic Stenosis: Patient increasing dyspnea prior to
   admission. No known history of chest pain or syncope.
   - Cautious diuresis due to preload dependence
   # Hypothyroidism: Continue levothyroxine 50 mcg daily.
   # Rate: Patient with history of A Fib and sick sinus syndrome s/p PPM.
   - Continue Amiodarone 200 mg qd
   # FEN: replete electrolytes, NPO
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals
   # Communication: Patient
   # Code:  Full
   # Disposition: ICU now, call out to floor later this AM
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-3-9**] 10:58 AM
   Arterial Line - [**2172-3-9**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-03-11 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Yesterday evening (5:20 pm) Pt was extubated and procedure was
   tolerated well. Post extubation ABG 7.41/42/78/28 @ 3L
   Pt briefly on nitro gtt after become hypertensive to 200s systolic in
   peri-extubation period, but gtt was weaned off after approximately 1
   hour
   Pt now on 3L O2 which is what she is on at home
   wanted something for sleep -  as she was alert and conversational and
   respiratorily fine gave her 25mg trazadone.
   Allergies:
   Morphine Sulfate
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2172-3-9**] 11:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2172-3-9**] 12:00 PM
   Azithromycin - [**2172-3-9**] 03:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2172-3-10**] 10:25 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-3-11**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**74**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.8
   HR: 60 (60 - 61) bpm
   BP: 116/45(68) {110/45(68) - 203/74(119)} mmHg
   RR: 13 (12 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AV Paced
             Total In:
                                                                  1,165 mL
                                                                     21 mL
   PO:
             TF:
   IVF:
                                                                    925 mL
                                                                     21 mL
   Blood products:
   Total out:
                                                                  2,352 mL
                                                                    260 mL
   Urine:
                                                                  2,352 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,187 mL
                                                                   -239 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 492 (429 - 531) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 47
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.41/42/77.[**Numeric Identifier 253**]/25/1
   Ve: 6.4 L/min
   PaO2 / FiO2: 156
   Physical Examination
   GEN: AOx3, alert, interactive
   HEENT: mm dry, anicteric sclera
   RESP: bibasilar crackles, no wheezes, ronchi, rales
   Cards: III/VI LSB systolic murmur w/ radiation to carotids. rrr. No r/g
   Abd: soft, nt/nd, +BS, no organomegaly
   Ext: WWP, no c/c/e
   Labs / Radiology
   152 K/uL
   12.3 g/dL
   102 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.6 mEq/L
   12 mg/dL
   105 mEq/L
   139 mEq/L
   35.9 %
   9.3 K/uL
        [image002.jpg]
                             [**2172-3-9**]  12:46 PM
                             [**2172-3-9**]  02:49 PM
                             [**2172-3-9**]  06:49 PM
                             [**2172-3-9**]  07:46 PM
                             [**2172-3-10**]  02:56 AM
                             [**2172-3-10**]  08:59 AM
                             [**2172-3-10**]  09:31 AM
                             [**2172-3-10**]  05:06 PM
                             [**2172-3-10**]  05:20 PM
                             [**2172-3-11**]  03:31 AM
   WBC
   8.0
   7.7
   9.3
   Hct
   30.9
   33.3
   35.9
   Plt
   132
   116
   152
   Cr
   0.9
   0.9
   0.9
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   23
   26
   25
   28
   Glucose
   131
   124
   142
   102
   Other labs: PT / PTT / INR:13.3/26.0/1.1, CK / CKMB /
   Troponin-T:42//<0.01, Lactic Acid:1.6 mmol/L, Ca++:8.5 mg/dL, Mg++:2.2
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Assessment and Plan
   Assessment and Plan: 87 y/o F CAD, CHF, HTN, sick sinus s/p pacer,
   severe AS who presents with acute respiratory distress.
   # Acute respiratory distress:  Pt
s respiratory status much improved,
   successfully extubated. Given echo findings, hx of progressive AS, and
   episodes of SBP>200 while in hospital suspect that flash pulmonary
   edema was most likely etiology of acute respiratory decompensation. Pt
   still seeming volume overloaded on exam.  Pt has been ruled out for
   myocardial infarction. PNA still in differential although less likely
   as Pt has been afebrile and without leukocytosis
    - diurese with 60 IV Lasix X1 as Pt still volume overloaded on exam
   - Can d/c Ceftriaxone and Azithro as Pt not appearing actively
   infected, no fever, no leukocytosis, all cx to date negative
   - Would leave d/c a-line after diuresis w/ lasix
   .
   # Hypertension: Pt hypertensive in per-extubation in setting, briefly
   on nitro gtt, normotensive now
   - Captopril titrated up to 25 mg TID yesterday
   - diuresis as above
   # Hypotension/Hypertension: Patient with labile blood pressures ranging
   from hypo to hypertensive. Hypotensive most likely in setting of
   propofol, however lactate elevated 5.9 and acute kidney injury
   concerning for shock.
   - Antibiotics as above for possible PNA leading to septic shock
   - Follow urine, blood for infection
   # [**Last Name (un) **]: Creatinine increased to 1.2 from baseline 0.9.
   -Has been 0.9 over past 2 days
   - Continue to trend
   .
   # CAD: Patient with known 3 vessel disease but no intervention. No
   history of chest pain, but difficult to interpert EKG in setting of
   v-pacing.
   - Pt has been ruled out for MI
   - Continue ASA, simvastatin
   # HTN: Labile blood pressure (see above).
   - Continuing Captopril, 25 mg TID
   - Continuing Imdur, 60 mg qD
   - Can d/c a-line after diuresis
   .
   # CHF: Acute respiratory distress concerning for acute exacerbation.
   - Continuing Imdur in setting of labile blood pressure
   - Continue Lasix as above
   - Continuing captopril
   # Mod-Severe Aortic Stenosis: Patient increasing dyspnea prior to
   admission. No known history of chest pain or syncope.
   - Cautious diuresis due to preload dependence
   # Hypothyroidism: Continue levothyroxine 50 mcg daily.
   # Rate: Patient with history of A Fib and sick sinus syndrome s/p PPM.
   - Continue Amiodarone 200 mg qd
   # FEN: replete electrolytes, NPO
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals, R radial a-line
   # Communication: Patient
   # Code:  Full
   # Disposition: ICU now, call out to floor later this AM
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-3-9**] 10:58 AM
   Arterial Line - [**2172-3-9**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: